US04670427
A suspension of 9.0 g of sodium acetate in 270 ml of chloroform, 270 ml of formaldehyde dimethylacetal, and 35 ml of phosphorus oxychloride is stirred with 9.0 g of 17α-acetoxy-1α,2α-methylene-4-pregnene-3,20-dione for 5 hours at a bath temperature of 65° C. The reaction solution is neutralized with a saturated sodium carbonate solution and diluted with methylene chloride. The organic phase is separated and worked up as usual. The crude product is purified on 500 g of silica gel with a hexaneethyl acetate gradient (0-30% ethyl acetate), thus isolating 7.5 g of 17α-acetoxy-1α-chloromethyl-6-methylene-4-pregnene-3,20-dione, mp 190°-192° C.

reactant | sodium acetate | 9.0 g | C(C)(=O)[O-].[Na+]
reactant | phosphorus oxychloride | 35 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 17α-acetoxy-1α,2α-methylene-4-pregnene-3,20-dione | 9.0 g | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3CCC4=CC([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)C5)=O | C24H32O4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloroform | 270 ml | C(Cl)(Cl)Cl | CHCl3
solvent | formaldehyde dimethylacetal | 270 ml | COCOC | C3H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 17α-acetoxy-1α-chloromethyl-6-methylene-4-pregnene-3,20-dione | 7.5 g | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3CC(C4=CC(C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)CCl)=O)=C | C25H33ClO4
